US07897607B2
7-(2,4-dichlorophenyl)-2,3-dihydroinden-1-one
A solution containing 3-oxo-2,3-dihydro-1H-inden-4-yl trifluoromethanesulfonate (0.666 g, 2.38 mmol), 2,4-dichlorobenzeneboronic acid (0.907 g, 4.75 mmol), and potassium carbonate (0.657 g, 4.75 mmol) in toluene (10 mL) stirred at room temperature for 15 minutes. Pd(PPh3)4 (1.37 g, 1.19 mmol) was added and the mixture was stirred at 90° C. for 2 hours. The catalyst was removed by filtration and concentrated. Flash chromatography gave the desired product as a brown solid (0.572 g, 87%).

reactant | 3-oxo-2,3-dihydro-1H-inden-4-yl trifluoromethanesulfonate | 2.38 mmol, 0.666 g | FC(S(=O)(=O)OC1=C2C(CCC2=CC=C1)=O)(F)F | C10H7F3O4S
reactant | 2,4-dichlorobenzeneboronic acid | 4.75 mmol, 0.907 g | ClC1=C(C=CC(=C1)Cl)B(O)O | C6H5BCl2O2
reactant | potassium carbonate | 4.75 mmol, 0.657 g | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)4 | 1.19 mmol, 1.37 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 7-(2,4-dichlorophenyl)-2,3-dihydroinden-1-one | 0.572 g, 87% | ClC1=C(C=CC(=C1)Cl)C=1C=CC=C2CCC(C12)=O | C15H10Cl2O
